US05521147
To a solution of 4.00 g (0.0163 mole) of 7-amino-4,6-dichloro-2,3-dihydro-2,2-dimethylbenzofuran-3-one in 80 mL of toluene at ambient temperature was added 3.22 g (0.0163 mole) of trichloromethyl chloroformate. This mixture was stirred for fifteen minutes before being heated at reflux for three hours. The solvent was evaporated under reduced pressure, leaving 4,6-dichloro-2,3-dihydro-2,2-dimethylbenzofuran-3-on-7-yl isocyanate as a pale yellow oil. Upon standing, this oil solidified. The IR spectrum was consistent with an isocyanate. Step E Synthesis of 3-(4,6-dichloro-2,3-dihydro-2,2-dimethylbenzofuran-3-on-7-yl)-6-trifluoromethyluracil

reactant | 7-amino-4,6-dichloro-2,3-dihydro-2,2-dimethylbenzofuran-3-one | 0.0163 mole, 4.00 g | NC1=C(C=C(C=2C(C(OC21)(C)C)=O)Cl)Cl | C10H9Cl2NO2
reactant | trichloromethyl chloroformate | 0.0163 mole, 3.22 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 4,6-dichloro-2,3-dihydro-2,2-dimethylbenzofuran-3-on-7-yl isocyanate | ClC1=CC(=C(C2=C1C(C(O2)(C)C)=O)N=C=O)Cl | C11H7Cl2NO3
